US07378415B2
A suspension of 6-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one (1.42 g g., 4.9 mmol) in 10 ml anhydrous THF was brought to reflux, and borane-dimethyl sulfide complex (2.45 mL, 10 M in THF, 24.5 mmol) was added dropwise via syringe. The solution was refluxed for 3 hours, and the solution was cooled to room temperature and ethanolic HCl (3 mL, 2 N) was added dropwise. The resulting solution was refluxed for 1 hour and then cooled to room temperature. The reaction mixture was poured into 50 mL water, the resulting solution made basic with potassium carbonate and extracted three times with 25 mL Et2O. The organic fractions were washed with 50 mL brine, dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by flash chromatography (30 to 50% EtOAc in hexanes) to give 1.12 g of 6-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (83%) as a yellow solid. MS: 276 (M+H)+.

reactant | 6-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one | 4.9 mmol, 1.42 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C14H11NO4S
reactant | borane-dimethyl sulfide | 24.5 mmol, 10 M, 2.45 mL | CSC.B
reactant | HCl | 2 N, 3 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 6-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 1.12 g, 83% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(NCCO2)C1 | C14H13NO3S
